* Wurlitzer 200A Preamp — Transient Response Testbench
* =====================================================
* Single tone (440 Hz, A4) at moderate level to observe
* waveform shape, harmonic content, and settling behavior.
*
* Source: Vs → R-1 (22K) → preamp input, with LDR at 12K.
* 10mV peak input (moderate reed signal level).

.title Preamp Transient Response - 440 Hz

.include ../models/transistors.lib
.include ../models/diodes.lib
.include ../subcircuits/preamp.cir

* Supply
Vcc  vcc 0  DC 14.5

* Instantiate preamp
Xpre  in_sig out vcc 0 trem  wurli_preamp

* Source: 440 Hz sine, 10mV peak through R-1
Vin  src 0  DC 0 SIN(0 10M 440 0 0)
R1   src in_sig  22K

* LDR: nominal 12K
Rldr trem 0  12K

* Load resistor
Rload out 0  100K

* Transient: 200ms total, 1us step
* Start saving at 100ms — coupling cap time constant is .022uF * 380K = 8.4ms,
* need ~5 tau (42ms) minimum. 100ms gives 12 tau = 99.9994% settled.
.tran 1U 200M 100M 1U

.print TRAN V(src) V(in_sig) V(out)

.end
